US04775692
A solution of n-butyl lithium in hexane (1.44N, 60.0 ml, 86.4 mmol) was added to a solution of diisopropylamine (9.07 g, 89.6 mmol) in anhydrous THF (200 ml) cooled at -30° C. under argon atmosphere, and the mixture was stirred for 20 minutes. To this reaction mixture were added a solution of methyl 2-phenylpropionate (10.5 g, 64.0 mmol) in 10 ml of anhydrous THF and HMPA (16.5 g, 92.0 mmol), and the mixture was stirred at -30° C. for 10 minutes and then at 0° C. for 45 minutes. To this reaction solution was added a solution of methyl iodide (13.6 g, 96.0 mmol) in anhydrous THF (30 ml) at -30° C., and the mixture was stirred at -30° C. for 1 hour. This reaction mixture was added to an aqueous saturated solution of ammonium chloride (400 ml) and water (50 ml) was added. The mixture was extracted with ether (400 ml). The aqueous layer further extracted with ethyl acetate. The combined organic layers were washed with water (300 ml) and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was distilled (b.p. 99°-100° C./6 mmHg) to give an oil of methyl 2-methyl-2-phenylpropionate (7.63 g, 42.9 mmol, 67.0%). This compound was assigned the structure by the following data:

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 86.4 mmol, 1.44N, 60.0 ml | CCCCCC | C6H14
reactant | diisopropylamine | 89.6 mmol, 9.07 g | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-phenylpropionate | 64.0 mmol, 10.5 g | C1(=CC=CC=C1)C(C(=O)OC)C | C10H12O2
reactant | HMPA | 92.0 mmol, 16.5 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | methyl iodide | 96.0 mmol, 13.6 g | CI | CH3I
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | methyl 2-methyl-2-phenylpropionate | 42.9 mmol, 7.63 g, 67.0% | CC(C(=O)OC)(C)C1=CC=CC=C1 | C11H14O2
